US05250678
To a stirred solution of tris(3-methylphenyl)bismuthine (189 mg, 0.392 mmol) in CH2Cl2 (3 mL) was added bis(trifluoroacetoxy)iodobenzene (168 mg, 0.392 mmol). To this stirred solution was added 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.189 mmol) and Cu(OAc)2 (catalytic). The flask was capped and the mixture stirred overnight. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The products were isolated by radial chromatography on silica gel (eluted with 3:1 hexanes/ethyl acetate) to afford 70.9 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3"'-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methyl-vinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tris(3-methylphenyl)bismuthine | 0.392 mmol, 189 mg | CC=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)C)C1=CC(=CC=C1)C
reactant | bis(trifluoroacetoxy)iodobenzene | 0.392 mmol, 168 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.189 mmol, 150 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3"'-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methyl-vinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 70.9 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC(=CC=C2)C)OC)C)C)O)=O | C50H75NO12
